US06458772B1
c) Synthesis of 2′,3′-dideoxy-3′-fluoro-5′-O [3-(1,3-dihydroxy-2-propyloxy carbonyl)propanoyl]guanosine
A solution of 2′,3′-dideoxy-3′-fluoro-5′-O-[3-(1,3-dibenzyloxy-2-propyloxy carbonyl)propanoyl]guanosine (3.2 g, 5.13 mmole) in 50 ml ethyl acetate, 50 ml methanol and 10 ml acetic acid was hydrogenated with palladium black (0.6 g) under 40 psi overnight. The catalyst was filtered and washed with methanol, The solution was evaporated under reduced pressure and the product was isolated by silica gel column chromatography. Yield: 1.64 g

reactant | 2′,3′-dideoxy-3′-fluoro-5′-O-[3-(1,3-dibenzyloxy-2-propyloxy carbonyl)propanoyl]guanosine | 5.13 mmole, 3.2 g | F[C@H]1C[C@@H](O[C@@H]1COC(CCC(=O)OC(COCC1=CC=CC=C1)COCC1=CC=CC=C1)=O)N1C=NC=2C(=O)NC(N)=NC12 | C31H34FN5O8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 0.6 g | [Pd] | Pd
product | 2′,3′-dideoxy-3′-fluoro-5′-O [3-(1,3-dihydroxy-2-propyloxy carbonyl)propanoyl]guanosine | F[C@H]1C[C@@H](O[C@@H]1COC(CCC(=O)OC(CO)CO)=O)N1C=NC=2C(=O)NC(N)=NC12 | C17H22FN5O8
